US09388176B2
N-(3-Isopropyl-phenyl)-5-(2-methylsulfanyl-7,8-dihydro-5H-pyrido[4,3-d]pyrimidin-6-yl)-nicotinamide
In a manner similar to that described for Example 138, 2-(methylsulfanyl)-5,6,7,8-tetrahydropyrido[4,3-d]-pyrimidine and 5-bromo-N-(3-isopropylphenyl)nicotinamide were converted to the title compound.

reactant | 2-(methylsulfanyl)-5,6,7,8-tetrahydropyrido[4,3-d]-pyrimidine | CSC=1N=CC2=C(N1)CCNC2 | C8H11N3S
reactant | 5-bromo-N-(3-isopropylphenyl)nicotinamide | BrC=1C=NC=C(C(=O)NC2=CC(=CC=C2)C(C)C)C1 | C15H15BrN2O
product | N-(3-Isopropyl-phenyl)-5-(2-methylsulfanyl-7,8-dihydro-5H-pyrido[4,3-d]pyrimidin-6-yl)-nicotinamide | C(C)(C)C=1C=C(C=CC1)NC(C1=CN=CC(=C1)N1CC2=C(N=C(N=C2)SC)CC1)=O | C23H25N5OS
